US07923456B2
Step 1: 2-(4-Bromo-2-fluorophenylamino)-6-formylaminomethylnicotinic acid methyl ester
To a solution of 2-(2-fluoro-4-trimethylsilanylphenylamino)-6-formylamino methyl-nicotinic acid methyl ester (11.6 g, 30.9 mmol) in DCM (300 mL) at −30° C. was added N-bromo succinimide (5.56 g, 30.9 mmol) portionwise. The reaction mixture was stirred at −30° C. for 30 minutes. The reaction mixture was concentrated in vacuo and the residue partitioned between saturated aqueous sodium hydrogen carbonate and ethyl acetate. The organic layer was separated and washed with water, dried (Na2SO4), filtered and concentrated in vacuo to give the title compound as an orange gum (11.8 g, 100%). LCMS (Method B): RT=3.67 min, M+H+=382/384.

reactant | 2-(2-fluoro-4-trimethylsilanylphenylamino)-6-formylamino methyl-nicotinic acid methyl ester | 30.9 mmol, 11.6 g | COC(C1=C(N=C(C=C1)CNC=O)NC1=C(C=C(C=C1)[Si](C)(C)C)F)=O | C18H22FN3O3Si
reactant | N-bromo succinimide | 30.9 mmol, 5.56 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Bromo-2-fluorophenylamino)-6-formylaminomethylnicotinic acid methyl ester | 11.8 g, 100% | COC(C1=C(N=C(C=C1)CNC=O)NC1=C(C=C(C=C1)Br)F)=O | C15H13BrFN3O3
